US07176316B2
The title compound, MS (ISP): m/e=440.4 (M+H+), was prepared as for example 209, steps (A) to (C). Step (B) was performed using 3-bromo-pyridine as follows: A suspension of (+/−)-[cis-1-(2-phenyl-cyclohexyl)-piperidin-4-yl]-amine (1.00 g, 3.88 mmol) in toluene (30 ml) was degassed with a flow of argon for 10 minutes. Tris-(dibenzylideneacetone)dipalladium chloroform complex (124 mg, 0.12 mmol), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphtyl (BINAP, 76.0 mg, 0.12 mmol), sodium tert-butoxide (0.470 g, 4.89 mmol) and 3-bromopyridine (0.483 g, 3.06 mmol) were added under argon. The flask was sealed and warmed to 70° C. for 3 hours. The mixture was diluted with ethyl acetate (30 ml) and diethyl ether (30 ml) and washed three times with saturated sodium chloride solution. The organic phase was dried with sodium sulphate and evaporated, yielding a red oil. Purification was achieved by flash chromatography (dichloromethane/methanol/25% NH3 90:10:1). (+/−)-[cis-1-(2-Phenyl-cyclohexyl)-piperidin-4-yl]-pyridin-3-yl-amine (0.260 g, 20%) was obtained as an orange foam, MS (ISP): m/e=336.3 (M+H+). This was reacted with benzoyl chloride in step (C).

reactant | 3-bromo-pyridine | BrC=1C=NC=CC1 | C5H4BrN
reactant | (+/−)-[cis-1-(2-phenyl-cyclohexyl)-piperidin-4-yl]-amine | 3.88 mmol, 1.00 g | C1(=CC=CC=C1)[C@@H]1[C@@H](CCCC1)N1CCC(CC1)N | C17H26N2
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphtyl | 0.12 mmol, 76.0 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 4.89 mmol, 0.470 g | CC(C)([O-])C.[Na+]
reactant | 3-bromopyridine | 3.06 mmol, 0.483 g | BrC=1C=NC=CC1 | C5H4BrN
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | (+/−)-[cis-1-(2-Phenyl-cyclohexyl)-piperidin-4-yl]-pyridin-3-yl-amine | 0.260 g, 20% | C1(=CC=CC=C1)[C@@H]1[C@@H](CCCC1)N1CCC(CC1)NC=1C=NC=CC1 | C22H29N3
